US06906072B1
Example 197 1-[4-cyano-4-(5-cyano-2-thienyl)-5-methylhexyl]-4-[2-(6-cyano-2-pyridvloxy)ethyl]piperazine
The title compound was synthesized in accordance with Example 75 from 4-cyano-4-(5-cyano-2-thienyl)-5-methylhexyl iodide and 1-[2-(6-cyano-2-pyridyloxy)ethyl]piperazine. The physico-chemical data of the compound was as below.

reactant | 4-cyano-4-(5-cyano-2-thienyl)-5-methylhexyl iodide | C(#N)C(CCCI)(C(C)C)C=1SC(=CC1)C#N | C13H15IN2S
reactant | 1-[2-(6-cyano-2-pyridyloxy)ethyl]piperazine | C(#N)C1=CC=CC(=N1)OCCN1CCNCC1 | C12H16N4O
product | 1-[4-cyano-4-(5-cyano-2-thienyl)-5-methylhexyl]-4-[2-(6-cyano-2-pyridvloxy)ethyl]piperazine | C(#N)C(CCCN1CCN(CC1)CCOC1=NC(=CC=C1)C#N)(C(C)C)C=1SC(=CC1)C#N | C25H30N6OS
